US07855193B2
5-(cyclopentylmethoxy)benzofuran (Step 2 of Scheme 4)
DEAD (362 mg, 2.09 mmol) was slowly added to a solution of 5-hydroxybenzofuran (200 mg, 1.49 mmol), triphenylphosphine (547 mg, 2.09 mmol) and cyclopentyl-methanol (203 mg, 2.0 2 mmol) in 3 mL of THF. The mixture was stirred at room temperature for 16 hours. The solvent was removed and the residue was purified by ISCO column chromatography using 0-5% AcOEt in Hexanes. The title compound was obtained as a white solid (0.208 g, 65% yield): 84% purity by HPLC; 1H NMR (400 MHz, CD3OD) δ 7.58 (d, 1H), 7.38 (d, J=8.4 Hz, 1H), 7.06 (s, 1H), 6.91 (d, J=9.2 Hz, 1H), 6.69 (m, 1H), 3.82 (d, 2H), 2.39 (m, 1H), 1.85 (m, 2H), 1.63(m, 4H), 1.39(m, 2H).

reactant | DEAD | 2.09 mmol, 362 mg | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | 5-hydroxybenzofuran | 1.49 mmol, 200 mg | OC=1C=CC2=C(C=CO2)C1 | C8H6O2
reactant | triphenylphosphine | 2.09 mmol, 547 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | cyclopentyl-methanol | 2 mmol, 203 mg | C1(CCCC1)CO | C6H12O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 5-(cyclopentylmethoxy)benzofuran | C1(CCCC1)COC=1C=CC2=C(C=CO2)C1 | C14H16O2
